US08791267B2
A suspension of 1-(3-Bromo-4-methoxy-benzyl)-1H-indole (150 mg, 0.474 mmol), palladium bis(triphenylphosphine)dichloride (13.3 mg, 0.0190 mmol), and 3-nitrophenylboronic acid (94.9 mg, 0.569 mmol) in dioxane (10 mL) and 1 M aqueous sodium carbonate (1.1 mL) was stirred at 85° C. for 22 h. To the reaction was added ethyl acetate (30 mL). The organic suspension was washed with water (4×30 mL), brine (2×30 mL), dried over sodium sulfate, and the solvent removed under vacuum. The residue was purified by flash silica gel column chromatography (10% ethyl acetate in hexanes as the elutant) to yield 1-(6-Methoxy-3′-nitro-biphenyl-3-ylmethyl)-1H-indole P-010 (23.6 mg, 17% yield).

reactant | 1-(3-Bromo-4-methoxy-benzyl)-1H-indole | 0.474 mmol, 150 mg | BrC=1C=C(CN2C=CC3=CC=CC=C23)C=CC1OC | C16H14BrNO
reactant | 3-nitrophenylboronic acid | 0.569 mmol, 94.9 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | sodium carbonate | 1 M, 1.1 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium bis(triphenylphosphine)dichloride | 0.0190 mmol, 13.3 mg | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
product | 1-(6-Methoxy-3′-nitro-biphenyl-3-ylmethyl)-1H-indole | 17% yield | COC1=CC=C(C=C1C1=CC(=CC=C1)[N+](=O)[O-])CN1C=CC2=CC=CC=C12 | C22H18N2O3
